US04318913
3-[3-[(1-Methyl-3-amino-1H-1,2,4-triazol-5-yl)amino]propoxy]benzenemethanol, hydrochloride
N'-Cyano-N-[3-[3-(1,3-dioxolan-2-yl)phenoxy]propyl]-1-methyl-2-(phenylmethylene)hydrazinecarboximidamide (18.2 g) in tetrahydrofuran (150 ml) was treated with 5N hydrochloric acid (30 ml) at 30° C. for 30 mins. Triethylamine (20 ml) was added followed by sodium borohydride (8.0 g). The resulting mixture was stirred at room temperature for 14 hrs, diluted with ethyl acetate (150 ml) and evaporated to a red oil which was dissolved in ethyl acetate, washed with sodium bicarbonate solution and evaporated to leave an oil. This oil was treated with etheral hydrogen chloride to give the title compound as a white solid (8 g). m.p. 148°-9°. TLC silica, ethyl acetate, water, isopropanol 0.88 ammonia (25:8:15:2) Rf 0.56.

reactant | N'-Cyano-N-[3-[3-(1,3-dioxolan-2-yl)phenoxy]propyl]-1-methyl-2-(phenylmethylene)hydrazinecarboximidamide | 18.2 g | C(#N)N=C(NCCCOC1=CC(=CC=C1)C1OCCO1)N(N=CC1=CC=CC=C1)C | C22H25N5O3
reactant | hydrochloric acid | 5N, 30 ml | Cl | ClH
reactant | Triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
reactant | sodium borohydride | 8.0 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 3-[3-[(1-Methyl-3-amino-1H-1,2,4-triazol-5-yl)amino]propoxy]benzenemethanol, hydrochloride | 8 g | Cl.CN1N=C(N=C1NCCCOC=1C=C(C=CC1)CO)N | InChI=1S/C13H19N5O2.ClH/c1-18-13(16-12(14)17-18)15-6-3-7-20-11-5-2-4-10(8-11)9-19;/h2,4-5,8,19H,3,6-7,9H2,1H3,(H3,14,15,16,17);1H
